US05006663
(a) Preparation of 5-methyl-4-phenyl-5-hexen-2-one of formula (VId)
The organo magnesium compound is then added to a solution of 10 g (0.068 mole) of benzalacetone and 7% (0.97 g) of CuI in 250 ml of THF. The mixture rapidly assumes a brown colouring. After addition, it is left for a few minutes at reflux and then 12 hours at ambient temperature. Hydrolyzing takes place by the addition of the reaction mixture to crushed ice and ammonium chloride, accompanied by very vigorous stirring. After 2 hours, the mixture assumes a blue lavender shade. Extraction takes place with ether and the product is dried on sodium sulphate.

reactant | benzalacetone | 0.068 mole, 10 g | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 250 ml | C1CCOC1 | C4H8O
catalyst | CuI | 0.97 g | [Cu]I
product | 5-methyl-4-phenyl-5-hexen-2-one | CC(C(CC(C)=O)C1=CC=CC=C1)=C | C13H16O
